### ISSUE TITLE
Gallery integrity: erdos-335 axiom weyl_equidistribution is inconsistent (proves False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41168]
## Integrity Issue

**Proof**: erdos-335 (Erdős Problem #335: Density Additivity Characterization)
**File**: `proofs/Proofs/Erdos335Problem.lean`
**Severity**: CRITICAL — an axiom in this file is logically inconsistent; `False` is provable, so every theorem in the file (and anything importing it) is vacuously "proved."

## Problem

The axiom `weyl_equidistribution` (lines 77–80) takes the target measure `μX : ℝ` as a **free parameter** constrained only by `0 ≤ μX ≤ 1`, with **no connection to the set `X`**:

```lean
axiom weyl_equidistribution (θ : ℝ) (X : Set ℝ) (hθ : Irrational θ)
    (μX : ℝ) (hμ : 0 ≤ μX) (hμ1 : μX ≤ 1) :
    DensityExists (FractionalPartSet θ X) ∧
    asympDensity (FractionalPartSet θ X) = μX
```

For a fixed irrational `θ` and fixed `X`, `asympDensity (FractionalPartSet θ X)` is a **single, fixed real number**. The axiom lets us equate that one number to *any* `μX ∈ [0,1]` — in particular to both `0` and `1` — giving `0 = 1`.

## Evidence

The following compiled with **no errors** against the built module:

```lean
import Proofs.Erdos335Problem

theorem inconsistent_335 : False := by
  have hθ : Irrational (Real.sqrt 2) := irrational_sqrt_two
  set X : Set ℝ := Set.univ
  have h0 := (weyl_equidistribution (Real.sqrt 2) X hθ 0 (by norm_num) (by norm_num)).2
  have h1 := (weyl_equidistribution (Real.sqrt 2) X hθ 1 (by norm_num) (by norm_num)).2
  rw [h0] at h1
  norm_num at h1
```

`#print axioms inconsistent_335` →
`[propext, weyl_equidistribution, Classical.choice, Quot.sound]`

i.e. `False` depends only on `weyl_equidistribution` plus the three standard Lean axioms.

**meta.json claims**: `status: "axiomatized"`, `axiomCount: 3`, presented as a faithful scaffold assuming deep-but-true results (Weyl equidistribution). Prior audits marked it `clean` 3×.
**Lean file shows**: one of the three axioms is not just "deep" — it is *false/inconsistent*, so the scaffold is unsound. `exists_positive_density_additive_pair` and `exists_self_additive_density_quarter` (the "genuine positive-density witness" with density exactly 1/4) also rest on this axiom.

## Recommended Fix

Tie the density to the actual measure of `X` instead of a free parameter. E.g.:

```lean
axiom weyl_equidistribution (θ : ℝ) (X : Set ℝ) (hθ : Irrational θ) :
    DensityExists (FractionalPartSet θ X) ∧
    asympDensity (FractionalPartSet θ X) = (MeasureTheory.volume (X ∩ Set.Ico 0 1)).toReal
```

Then the downstream witnesses (`X = Set.Ico 0 (1/4)`) must discharge
`(volume (Ico 0 (1/4) ∩ Ico 0 1)).toReal = 1/4` rather than passing `μX := 1/4` for free.

Alternatively, keep `μX` but add a hypothesis fixing it as the measure of `X` (e.g. `hμX : (volume (X ∩ Set.Ico 0 1)).toReal = μX`), so the same `X` can no longer be assigned two different densities.

Also re-check `fractional_part_density_additive` (lines 85–87): it likewise takes `μA μB` as free parameters unused in the conclusion — harmless to consistency on its own (conclusion doesn't mention them), but it should be tightened for the same reason.

---
Discovered during gallery integrity audit. Verified by kernel: the file admits a proof of `False`.
